US07304156B2
In a 25 mL-volume glass flask equipped with a stirrer, a thermometer and a reflux condenser were placed 546 mg (5 mmol.) of N-methylmethanesulfonamide, 551 mg (5 mmol.) of sodium t-pentoxide, 10 mL of acetonitrile, and 309 mg (1 mmol.) of 2-chloro-4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonylpyrimidine. The mixture was heated to 81-82° C. for 3 hours under refluxing, to carry out reaction. After the reaction was complete, the reaction mixture was cooled to room temperature. To the cooled mixture was added 10 mL of water, and the aqueous mixture was extracted with ethyl acetate. The ethyl acetate portion was separated, and dried over anhydrous magnesium sulfate. The dried ethyl acetate portion was filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (column: Wako Gel C-200, eluent: hexane/ethyl acetate (2:1, volume ratio)). There was obtained 339 mg of 4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonyl-2-(N-methyl-N-methanesulfonylamino)pyrimidine. The yield was 89% (based on the amount of 2-chloro-4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonylpyrimidine).

reactant | N-methylmethanesulfonamide | 5 mmol, 546 mg | CNS(=O)(=O)C | C2H7NO2S
reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
reactant | 2-chloro-4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonylpyrimidine | 1 mmol, 309 mg | ClC1=NC(=C(C(=N1)C1=CC=C(C=C1)F)C(=O)OC)C(C)C | C15H14ClFN2O2
solvent | water | 10 mL | O | H2O
product | 4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonyl-2-(N-methyl-N-methanesulfonylamino)pyrimidine | 339 mg, yield was 89% | FC1=CC=C(C=C1)C1=NC(=NC(=C1C(=O)OC)C(C)C)N(S(=O)(=O)C)C | C17H20FN3O4S
